* NDS331N ELECTRICAL MODEL (SuperSOT-3 SOT-23 N-Ch DMOS)
* ------------------------
.SUBCKT  NDS331N  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={0.8*{-0.0032*TEMP+1.08}}  KP={-0.011*TEMP+6}
+  THETA=0.096 VMAX=4E5  LEVEL=3)        
Cgs     1    3    150p
Rd     20    4    20m TC=0.0048
Dds     3    4    DDS
.MODEL     DDS    D(BV={20*{0.0008*TEMP+0.98}}   M=0.3  CJO=200p   VJ=0.8)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    25m TC=0.0048
Rs      3    5    1m
Ls      5    30   0.5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    550p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.6   CJO=300p   VJ=0.35)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDS331N
*
