
* NDS335N ELECTRICAL MODEL (SuperSOT-3 SOT-23 N-Ch DMOS)
* ------------------------
.SUBCKT  NDS335N  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={0.65*{-0.0032*TEMP+1.08}}  KP={-0.018*TEMP+8.65}
+  THETA=0.096 VMAX=4E5  LEVEL=3)        
Cgs     1    3    250p
Rd     20    4    10m TC=0.0048
Dds     3    4    DDS
.MODEL     DDS    D(BV={20*{0.00084*TEMP+0.979}}   M=0.3  CJO=250p   VJ=0.8)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    25m TC=0.0048
Rs      3    5    1m
Ls      5    30   0.5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    980p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=450p   VJ=0.15)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDS335N
*
* NDS335N THERMAL MODEL
* ---------------------
.SUBCKT   335NTHM   50  40  100

Rop       50   60   1meg
Cop       60   70   1u   IC=0
E_W       40   70   40   60  1meg

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)}
R80       80   40   1k

E_Tja     100   40   VALUE = {V(80,40)*250*V(90,40)}
R100      100   40   1k

R90       90   40   1k
E_rja     90   40   table {TIME} ; Normalized NDS335N Single Pulsed rja(t)
+(  0.0001 ,0.001402 )
+(0.000872 ,  0.0085 )
+(0.009476 ,0.057119 )
+(    0.05 ,0.146823 )
+(     0.1 ,0.205168 )
+(     0.2 ,0.279125 )
+(     0.5 ,0.401537 )
+(       1 ,0.495428 )
+(       2 ,0.576191 )
+(       5 ,0.669571 )
+(  10.683 ,0.741601 )
+( 21.2997 ,0.810463 )
+(      50 ,0.895578 )
+(     100 ,0.953184 )
+( 156.877 ,0.975353 )
+( 216.442 ,0.979892 )
.ENDS 335NTHM



